US04118386
8-Chloro-6-(2-fluorophenyl)-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, ethyl ester
Potassium t-butoxide, 1.4 g (0.0125 mole), was added to a solution of 1.4 g (0.0124 mole) of ethyl isocyanoacetate in 125 ml of dry tetrahydrofuran. After stirring under argon for 10 minutes, 5.07 g (0.01 mole) of 7-chloro-2-[bis(morpholino)-phosphinyloxy]-5-(2-fluorophenyl)-3H-1,4-benzodiazepine was added and stirring was continued for 30 minutes at room temperature. The reaction mixture was then acidified with glacial acetic acid, diluted with water and extracted with methylene chloride. The extracts were washed with saturated sodium bicarbonate solution, dried and evaporated. Crystallization of the residue from ether yielded crystals which were recrystallized from methylene chloride/ether/hexane for analysis, mp 195°-196°.

reactant | Potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | ethyl isocyanoacetate | 0.0124 mole, 1.4 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | 7-chloro-2-[bis(morpholino)-phosphinyloxy]-5-(2-fluorophenyl)-3H-1,4-benzodiazepine | 0.01 mole, 5.07 g | ClC=1C=CC2=C(C(=NCC(=N2)OP(=O)(N2CCOCC2)N2CCOCC2)C2=C(C=CC=C2)F)C1 | C23H25ClFN4O4P
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 8-Chloro-6-(2-fluorophenyl)-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, ethyl ester | ClC=1C=CC2=C(C(=NCC=3N2C=NC3C(=O)OCC)C3=C(C=CC=C3)F)C1 | C20H15ClFN3O2
